US07645789B2
To a solution of 3-fluoro-4,5-dihydroxy-benzaldehyde (1.5 g, 9.6 mmol) and BrClCH2 (4.9 g, 38.5 mmol) in dry DMF (50 mL) was added Cs2CO3 (12.6 g, 39 mmol). The mixture was stirred at 60° C. overnight and was then poured into water. The resulting mixture was extracted with EtOAc (50 mL×3). The combined organic layers were washed with brine (100 mL), dried over Na2SO4 and evaporated under reduced pressure to give the crude product, which was purified by column chromatography on silica gel (petroleum ether/ethyl acetate=10/1) to afford 7-fluoro-benzo[1,3]dioxole-5-carbaldehyde (0.80 g, 49%). 1H NMR (300 MHz, CDCl3) δ 9.78 (d, J=0.9 Hz, 1H), 7.26 (dd, J=1.5, 9.3 Hz, 1H), 7.19 (d, J=1.2 Hz, 1H), 6.16 (s, 2H).

reactant | 3-fluoro-4,5-dihydroxy-benzaldehyde | 9.6 mmol, 1.5 g | FC=1C=C(C=O)C=C(C1O)O | C7H5FO3
reactant | Cs2CO3 | 39 mmol, 12.6 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 7-fluoro-benzo[1,3]dioxole-5-carbaldehyde | 0.80 g, 49% | FC1=CC(=CC2=C1OCO2)C=O | C8H5FO3
